** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-197/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant K20c: 300 cycles, nominal period
** 3.9952 ns, injected period jitter 2.000000% RMS
** (seeded RNG, seed 185020), TR = TF = 1 ns.
VCLK CLK GND pwl(
+ 0.000000n 0 1.500000n 0 2.500000n 1.8 3.567179n 1.8
+ 4.567179n 0 5.634359n 0 6.634359n 1.8 7.675350n 1.8
+ 8.675350n 0 9.716341n 0 10.716341n 1.8 11.716385n 1.8
+ 12.716385n 0 13.716429n 0 14.716429n 1.8 15.677520n 1.8
+ 16.677520n 0 17.638611n 0 18.638611n 1.8 19.609344n 1.8
+ 20.609344n 0 21.580076n 0 22.580076n 1.8 23.562783n 1.8
+ 24.562783n 0 25.545490n 0 26.545490n 1.8 27.516478n 1.8
+ 28.516478n 0 29.487466n 0 30.487466n 1.8 31.498241n 1.8
+ 32.498241n 0 33.509015n 0 34.509015n 1.8 35.547521n 1.8
+ 36.547521n 0 37.586026n 0 38.586026n 1.8 39.613895n 1.8
+ 40.613895n 0 41.641764n 0 42.641764n 1.8 43.572668n 1.8
+ 44.572668n 0 45.503572n 0 46.503572n 1.8 47.530518n 1.8
+ 48.530518n 0 49.557464n 0 50.557464n 1.8 51.611597n 1.8
+ 52.611597n 0 53.665731n 0 54.665731n 1.8 55.608163n 1.8
+ 56.608163n 0 57.550594n 0 58.550594n 1.8 59.589055n 1.8
+ 60.589055n 0 61.627516n 0 62.627516n 1.8 63.536578n 1.8
+ 64.536578n 0 65.445639n 0 66.445639n 1.8 67.437960n 1.8
+ 68.437960n 0 69.430281n 0 70.430281n 1.8 71.450432n 1.8
+ 72.450432n 0 73.470583n 0 74.470583n 1.8 75.418750n 1.8
+ 76.418750n 0 77.366917n 0 78.366917n 1.8 79.415510n 1.8
+ 80.415510n 0 81.464104n 0 82.464104n 1.8 83.453750n 1.8
+ 84.453750n 0 85.443396n 0 86.443396n 1.8 87.450864n 1.8
+ 88.450864n 0 89.458331n 0 90.458331n 1.8 91.423790n 1.8
+ 92.423790n 0 93.389249n 0 94.389249n 1.8 95.408931n 1.8
+ 96.408931n 0 97.428613n 0 98.428613n 1.8 99.476440n 1.8
+ 100.476440n 0 101.524267n 0 102.524267n 1.8 103.500169n 1.8
+ 104.500169n 0 105.476071n 0 106.476071n 1.8 107.421420n 1.8
+ 108.421420n 0 109.366768n 0 110.366768n 1.8 111.275914n 1.8
+ 112.275914n 0 113.185059n 0 114.185059n 1.8 115.216963n 1.8
+ 116.216963n 0 117.248866n 0 118.248866n 1.8 119.233226n 1.8
+ 120.233226n 0 121.217585n 0 122.217585n 1.8 123.249016n 1.8
+ 124.249016n 0 125.280446n 0 126.280446n 1.8 127.281013n 1.8
+ 128.281013n 0 129.281579n 0 130.281579n 1.8 131.246335n 1.8
+ 132.246335n 0 133.211091n 0 134.211091n 1.8 135.243270n 1.8
+ 136.243270n 0 137.275450n 0 138.275450n 1.8 139.330609n 1.8
+ 140.330609n 0 141.385768n 0 142.385768n 1.8 143.418517n 1.8
+ 144.418517n 0 145.451266n 0 146.451266n 1.8 147.455679n 1.8
+ 148.455679n 0 149.460093n 0 150.460093n 1.8 151.414093n 1.8
+ 152.414093n 0 153.368093n 0 154.368093n 1.8 155.407760n 1.8
+ 156.407760n 0 157.447427n 0 158.447427n 1.8 159.437894n 1.8
+ 160.437894n 0 161.428361n 0 162.428361n 1.8 163.354145n 1.8
+ 164.354145n 0 165.279929n 0 166.279929n 1.8 167.271647n 1.8
+ 168.271647n 0 169.263364n 0 170.263364n 1.8 171.205572n 1.8
+ 172.205572n 0 173.147779n 0 174.147779n 1.8 175.199182n 1.8
+ 176.199182n 0 177.250585n 0 178.250585n 1.8 179.276304n 1.8
+ 180.276304n 0 181.302023n 0 182.302023n 1.8 183.243350n 1.8
+ 184.243350n 0 185.184676n 0 186.184676n 1.8 187.224633n 1.8
+ 188.224633n 0 189.264589n 0 190.264589n 1.8 191.286284n 1.8
+ 192.286284n 0 193.307979n 0 194.307979n 1.8 195.304461n 1.8
+ 196.304461n 0 197.300943n 0 198.300943n 1.8 199.264993n 1.8
+ 200.264993n 0 201.229042n 0 202.229042n 1.8 203.155991n 1.8
+ 204.155991n 0 205.082940n 0 206.082940n 1.8 207.117271n 1.8
+ 208.117271n 0 209.151601n 0 210.151601n 1.8 211.142370n 1.8
+ 212.142370n 0 213.133139n 0 214.133139n 1.8 215.142598n 1.8
+ 216.142598n 0 217.152058n 0 218.152058n 1.8 219.112870n 1.8
+ 220.112870n 0 221.073682n 0 222.073682n 1.8 223.079798n 1.8
+ 224.079798n 0 225.085914n 0 226.085914n 1.8 227.101096n 1.8
+ 228.101096n 0 229.116278n 0 230.116278n 1.8 231.131514n 1.8
+ 232.131514n 0 233.146750n 0 234.146750n 1.8 235.179003n 1.8
+ 236.179003n 0 237.211255n 0 238.211255n 1.8 239.285264n 1.8
+ 240.285264n 0 241.359272n 0 242.359272n 1.8 243.293144n 1.8
+ 244.293144n 0 245.227017n 0 246.227017n 1.8 247.218948n 1.8
+ 248.218948n 0 249.210880n 0 250.210880n 1.8 251.234203n 1.8
+ 252.234203n 0 253.257526n 0 254.257526n 1.8 255.240002n 1.8
+ 256.240002n 0 257.222478n 0 258.222478n 1.8 259.218335n 1.8
+ 260.218335n 0 261.214191n 0 262.214191n 1.8 263.198725n 1.8
+ 264.198725n 0 265.183258n 0 266.183258n 1.8 267.256161n 1.8
+ 268.256161n 0 269.329065n 0 270.329065n 1.8 271.332474n 1.8
+ 272.332474n 0 273.335883n 0 274.335883n 1.8 275.350723n 1.8
+ 276.350723n 0 277.365564n 0 278.365564n 1.8 279.390094n 1.8
+ 280.390094n 0 281.414625n 0 282.414625n 1.8 283.373830n 1.8
+ 284.373830n 0 285.333035n 0 286.333035n 1.8 287.365825n 1.8
+ 288.365825n 0 289.398614n 0 290.398614n 1.8 291.401144n 1.8
+ 292.401144n 0 293.403673n 0 294.403673n 1.8 295.335707n 1.8
+ 296.335707n 0 297.267740n 0 298.267740n 1.8 299.310639n 1.8
+ 300.310639n 0 301.353538n 0 302.353538n 1.8 303.329818n 1.8
+ 304.329818n 0 305.306098n 0 306.306098n 1.8 307.273606n 1.8
+ 308.273606n 0 309.241115n 0 310.241115n 1.8 311.269988n 1.8
+ 312.269988n 0 313.298860n 0 314.298860n 1.8 315.252579n 1.8
+ 316.252579n 0 317.206297n 0 318.206297n 1.8 319.288378n 1.8
+ 320.288378n 0 321.370459n 0 322.370459n 1.8 323.277206n 1.8
+ 324.277206n 0 325.183953n 0 326.183953n 1.8 327.170580n 1.8
+ 328.170580n 0 329.157207n 0 330.157207n 1.8 331.240001n 1.8
+ 332.240001n 0 333.322795n 0 334.322795n 1.8 335.244479n 1.8
+ 336.244479n 0 337.166162n 0 338.166162n 1.8 339.111818n 1.8
+ 340.111818n 0 341.057475n 0 342.057475n 1.8 343.090774n 1.8
+ 344.090774n 0 345.124074n 0 346.124074n 1.8 347.108430n 1.8
+ 348.108430n 0 349.092787n 0 350.092787n 1.8 351.086203n 1.8
+ 352.086203n 0 353.079619n 0 354.079619n 1.8 355.109367n 1.8
+ 356.109367n 0 357.139115n 0 358.139115n 1.8 359.160750n 1.8
+ 360.160750n 0 361.182385n 0 362.182385n 1.8 363.202648n 1.8
+ 364.202648n 0 365.222911n 0 366.222911n 1.8 367.218198n 1.8
+ 368.218198n 0 369.213485n 0 370.213485n 1.8 371.191206n 1.8
+ 372.191206n 0 373.168927n 0 374.168927n 1.8 375.101591n 1.8
+ 376.101591n 0 377.034255n 0 378.034255n 1.8 379.029331n 1.8
+ 380.029331n 0 381.024407n 0 382.024407n 1.8 383.022880n 1.8
+ 384.022880n 0 385.021354n 0 386.021354n 1.8 387.008325n 1.8
+ 388.008325n 0 388.995295n 0 389.995295n 1.8 390.942015n 1.8
+ 391.942015n 0 392.888735n 0 393.888735n 1.8 394.887265n 1.8
+ 395.887265n 0 396.885795n 0 397.885795n 1.8 398.986832n 1.8
+ 399.986832n 0 401.087868n 0 402.087868n 1.8 403.065565n 1.8
+ 404.065565n 0 405.043261n 0 406.043261n 1.8 406.992500n 1.8
+ 407.992500n 0 408.941739n 0 409.941739n 1.8 410.964125n 1.8
+ 411.964125n 0 412.986512n 0 413.986512n 1.8 414.908840n 1.8
+ 415.908840n 0 416.831169n 0 417.831169n 1.8 418.784294n 1.8
+ 419.784294n 0 420.737418n 0 421.737418n 1.8 422.689606n 1.8
+ 423.689606n 0 424.641794n 0 425.641794n 1.8 426.646502n 1.8
+ 427.646502n 0 428.651210n 0 429.651210n 1.8 430.573202n 1.8
+ 431.573202n 0 432.495194n 0 433.495194n 1.8 434.511734n 1.8
+ 435.511734n 0 436.528274n 0 437.528274n 1.8 438.463438n 1.8
+ 439.463438n 0 440.398601n 0 441.398601n 1.8 442.406656n 1.8
+ 443.406656n 0 444.414711n 0 445.414711n 1.8 446.429450n 1.8
+ 447.429450n 0 448.444190n 0 449.444190n 1.8 450.470650n 1.8
+ 451.470650n 0 452.497111n 0 453.497111n 1.8 454.465023n 1.8
+ 455.465023n 0 456.432935n 0 457.432935n 1.8 458.423140n 1.8
+ 459.423140n 0 460.413345n 0 461.413345n 1.8 462.404520n 1.8
+ 463.404520n 0 464.395696n 0 465.395696n 1.8 466.434116n 1.8
+ 467.434116n 0 468.472535n 0 469.472535n 1.8 470.502441n 1.8
+ 471.502441n 0 472.532348n 0 473.532348n 1.8 474.539636n 1.8
+ 475.539636n 0 476.546925n 0 477.546925n 1.8 478.505556n 1.8
+ 479.505556n 0 480.464186n 0 481.464186n 1.8 482.511666n 1.8
+ 483.511666n 0 484.559145n 0 485.559145n 1.8 486.571573n 1.8
+ 487.571573n 0 488.584001n 0 489.584001n 1.8 490.572510n 1.8
+ 491.572510n 0 492.561019n 0 493.561019n 1.8 494.587930n 1.8
+ 495.587930n 0 496.614840n 0 497.614840n 1.8 498.621634n 1.8
+ 499.621634n 0 500.628427n 0 501.628427n 1.8 502.679649n 1.8
+ 503.679649n 0 504.730871n 0 505.730871n 1.8 506.723740n 1.8
+ 507.723740n 0 508.716610n 0 509.716610n 1.8 510.780388n 1.8
+ 511.780388n 0 512.844167n 0 513.844167n 1.8 514.908111n 1.8
+ 515.908111n 0 516.972055n 0 517.972055n 1.8 518.937804n 1.8
+ 519.937804n 0 520.903554n 0 521.903554n 1.8 522.922637n 1.8
+ 523.922637n 0 524.941719n 0 525.941719n 1.8 526.961105n 1.8
+ 527.961105n 0 528.980491n 0 529.980491n 1.8 530.982526n 1.8
+ 531.982526n 0 532.984561n 0 533.984561n 1.8 534.997278n 1.8
+ 535.997278n 0 537.009995n 0 538.009995n 1.8 539.059536n 1.8
+ 540.059536n 0 541.109076n 0 542.109076n 1.8 543.158871n 1.8
+ 544.158871n 0 545.208666n 0 546.208666n 1.8 547.266871n 1.8
+ 548.266871n 0 549.325077n 0 550.325077n 1.8 551.346237n 1.8
+ 552.346237n 0 553.367396n 0 554.367396n 1.8 555.334192n 1.8
+ 556.334192n 0 557.300987n 0 558.300987n 1.8 559.315580n 1.8
+ 560.315580n 0 561.330174n 0 562.330174n 1.8 563.304235n 1.8
+ 564.304235n 0 565.278295n 0 566.278295n 1.8 567.301613n 1.8
+ 568.301613n 0 569.324930n 0 570.324930n 1.8 571.352631n 1.8
+ 572.352631n 0 573.380332n 0 574.380332n 1.8 575.443109n 1.8
+ 576.443109n 0 577.505886n 0 578.505886n 1.8 579.482812n 1.8
+ 580.482812n 0 581.459737n 0 582.459737n 1.8 583.467887n 1.8
+ 584.467887n 0 585.476037n 0 586.476037n 1.8 587.440393n 1.8
+ 588.440393n 0 589.404749n 0 590.404749n 1.8 591.475034n 1.8
+ 592.475034n 0 593.545319n 0 594.545319n 1.8 595.537330n 1.8
+ 596.537330n 0 597.529340n 0 598.529340n 1.8 599.524560n 1.8
+ 600.524560n 0 601.519780n 0 602.519780n 1.8 603.523792n 1.8
+ 604.523792n 0 605.527805n 0 606.527805n 1.8 607.524330n 1.8
+ 608.524330n 0 609.520855n 0 610.520855n 1.8 611.468522n 1.8
+ 612.468522n 0 613.416188n 0 614.416188n 1.8 615.456606n 1.8
+ 616.456606n 0 617.497025n 0 618.497025n 1.8 619.470325n 1.8
+ 620.470325n 0 621.443626n 0 622.443626n 1.8 623.395024n 1.8
+ 624.395024n 0 625.346421n 0 626.346421n 1.8 627.367201n 1.8
+ 628.367201n 0 629.387981n 0 630.387981n 1.8 631.431875n 1.8
+ 632.431875n 0 633.475769n 0 634.475769n 1.8 635.511323n 1.8
+ 636.511323n 0 637.546876n 0 638.546876n 1.8 639.565308n 1.8
+ 640.565308n 0 641.583740n 0 642.583740n 1.8 643.551616n 1.8
+ 644.551616n 0 645.519492n 0 646.519492n 1.8 647.444039n 1.8
+ 648.444039n 0 649.368585n 0 650.368585n 1.8 651.348829n 1.8
+ 652.348829n 0 653.329073n 0 654.329073n 1.8 655.295500n 1.8
+ 656.295500n 0 657.261927n 0 658.261927n 1.8 659.297168n 1.8
+ 660.297168n 0 661.332409n 0 662.332409n 1.8 663.351740n 1.8
+ 664.351740n 0 665.371071n 0 666.371071n 1.8 667.415826n 1.8
+ 668.415826n 0 669.460580n 0 670.460580n 1.8 671.405403n 1.8
+ 672.405403n 0 673.350227n 0 674.350227n 1.8 675.371890n 1.8
+ 676.371890n 0 677.393554n 0 678.393554n 1.8 679.421996n 1.8
+ 680.421996n 0 681.450439n 0 682.450439n 1.8 683.390397n 1.8
+ 684.390397n 0 685.330355n 0 686.330355n 1.8 687.343389n 1.8
+ 688.343389n 0 689.356423n 0 690.356423n 1.8 691.385979n 1.8
+ 692.385979n 0 693.415534n 0 694.415534n 1.8 695.442139n 1.8
+ 696.442139n 0 697.468744n 0 698.468744n 1.8 699.446721n 1.8
+ 700.446721n 0 701.424697n 0 702.424697n 1.8 703.414445n 1.8
+ 704.414445n 0 705.404192n 0 706.404192n 1.8 707.406887n 1.8
+ 708.406887n 0 709.409581n 0 710.409581n 1.8 711.379664n 1.8
+ 712.379664n 0 713.349746n 0 714.349746n 1.8 715.336391n 1.8
+ 716.336391n 0 717.323037n 0 718.323037n 1.8 719.311898n 1.8
+ 720.311898n 0 721.300759n 0 722.300759n 1.8 723.290916n 1.8
+ 724.290916n 0 725.281073n 0 726.281073n 1.8 727.276579n 1.8
+ 728.276579n 0 729.272084n 0 730.272084n 1.8 731.306655n 1.8
+ 732.306655n 0 733.341226n 0 734.341226n 1.8 735.296138n 1.8
+ 736.296138n 0 737.251051n 0 738.251051n 1.8 739.234508n 1.8
+ 740.234508n 0 741.217964n 0 742.217964n 1.8 743.175763n 1.8
+ 744.175763n 0 745.133561n 0 746.133561n 1.8 747.057840n 1.8
+ 748.057840n 0 748.982120n 0 749.982120n 1.8 750.968238n 1.8
+ 751.968238n 0 752.954356n 0 753.954356n 1.8 754.918565n 1.8
+ 755.918565n 0 756.882774n 0 757.882774n 1.8 758.884137n 1.8
+ 759.884137n 0 760.885499n 0 761.885499n 1.8 762.881321n 1.8
+ 763.881321n 0 764.877144n 0 765.877144n 1.8 766.811170n 1.8
+ 767.811170n 0 768.745197n 0 769.745197n 1.8 770.708488n 1.8
+ 771.708488n 0 772.671779n 0 773.671779n 1.8 774.665732n 1.8
+ 775.665732n 0 776.659684n 0 777.659684n 1.8 778.685099n 1.8
+ 779.685099n 0 780.710514n 0 781.710514n 1.8 782.712581n 1.8
+ 783.712581n 0 784.714649n 0 785.714649n 1.8 786.700495n 1.8
+ 787.700495n 0 788.686341n 0 789.686341n 1.8 790.649158n 1.8
+ 791.649158n 0 792.611975n 0 793.611975n 1.8 794.637667n 1.8
+ 795.637667n 0 796.663358n 0 797.663358n 1.8 798.674543n 1.8
+ 799.674543n 0 800.685729n 0 801.685729n 1.8 802.699911n 1.8
+ 803.699911n 0 804.714092n 0 805.714092n 1.8 806.740737n 1.8
+ 807.740737n 0 808.767381n 0 809.767381n 1.8 810.764799n 1.8
+ 811.764799n 0 812.762217n 0 813.762217n 1.8 814.845926n 1.8
+ 815.845926n 0 816.929635n 0 817.929635n 1.8 818.919952n 1.8
+ 819.919952n 0 820.910269n 0 821.910269n 1.8 822.946184n 1.8
+ 823.946184n 0 824.982098n 0 825.982098n 1.8 826.999313n 1.8
+ 827.999313n 0 829.016528n 0 830.016528n 1.8 830.988379n 1.8
+ 831.988379n 0 832.960229n 0 833.960229n 1.8 835.003741n 1.8
+ 836.003741n 0 837.047252n 0 838.047252n 1.8 839.071391n 1.8
+ 840.071391n 0 841.095530n 0 842.095530n 1.8 843.089554n 1.8
+ 844.089554n 0 845.083578n 0 846.083578n 1.8 847.001900n 1.8
+ 848.001900n 0 848.920222n 0 849.920222n 1.8 850.938136n 1.8
+ 851.938136n 0 852.956049n 0 853.956049n 1.8 854.963601n 1.8
+ 855.963601n 0 856.971153n 0 857.971153n 1.8 858.919895n 1.8
+ 859.919895n 0 860.868637n 0 861.868637n 1.8 862.921158n 1.8
+ 863.921158n 0 864.973679n 0 865.973679n 1.8 866.930645n 1.8
+ 867.930645n 0 868.887611n 0 869.887611n 1.8 870.942867n 1.8
+ 871.942867n 0 872.998124n 0 873.998124n 1.8 874.967393n 1.8
+ 875.967393n 0 876.936662n 0 877.936662n 1.8 878.941757n 1.8
+ 879.941757n 0 880.946851n 0 881.946851n 1.8 882.947166n 1.8
+ 883.947166n 0 884.947480n 0 885.947480n 1.8 886.961463n 1.8
+ 887.961463n 0 888.975446n 0 889.975446n 1.8 890.882636n 1.8
+ 891.882636n 0 892.789826n 0 893.789826n 1.8 894.737453n 1.8
+ 895.737453n 0 896.685079n 0 897.685079n 1.8 898.726554n 1.8
+ 899.726554n 0 900.768028n 0 901.768028n 1.8 902.745554n 1.8
+ 903.745554n 0 904.723080n 0 905.723080n 1.8 906.802864n 1.8
+ 907.802864n 0 908.882648n 0 909.882648n 1.8 910.892349n 1.8
+ 911.892349n 0 912.902050n 0 913.902050n 1.8 914.865396n 1.8
+ 915.865396n 0 916.828741n 0 917.828741n 1.8 918.873388n 1.8
+ 919.873388n 0 920.918035n 0 921.918035n 1.8 922.959727n 1.8
+ 923.959727n 0 925.001418n 0 926.001418n 1.8 927.023512n 1.8
+ 928.023512n 0 929.045607n 0 930.045607n 1.8 931.070452n 1.8
+ 932.070452n 0 933.095297n 0 934.095297n 1.8 935.180371n 1.8
+ 936.180371n 0 937.265445n 0 938.265445n 1.8 939.241542n 1.8
+ 940.241542n 0 941.217639n 0 942.217639n 1.8 943.251762n 1.8
+ 944.251762n 0 945.285884n 0 946.285884n 1.8 947.274911n 1.8
+ 948.274911n 0 949.263939n 0 950.263939n 1.8 951.291821n 1.8
+ 952.291821n 0 953.319703n 0 954.319703n 1.8 955.364958n 1.8
+ 956.364958n 0 957.410214n 0 958.410214n 1.8 959.384788n 1.8
+ 960.384788n 0 961.359363n 0 962.359363n 1.8 963.329855n 1.8
+ 964.329855n 0 965.300347n 0 966.300347n 1.8 967.267274n 1.8
+ 968.267274n 0 969.234200n 0 970.234200n 1.8 971.227339n 1.8
+ 972.227339n 0 973.220478n 0 974.220478n 1.8 975.185314n 1.8
+ 976.185314n 0 977.150151n 0 978.150151n 1.8 979.005783n 1.8
+ 980.005783n 0 980.861415n 0 981.861415n 1.8 982.873862n 1.8
+ 983.873862n 0 984.886310n 0 985.886310n 1.8 986.878509n 1.8
+ 987.878509n 0 988.870709n 0 989.870709n 1.8 990.845217n 1.8
+ 991.845217n 0 992.819724n 0 993.819724n 1.8 994.746052n 1.8
+ 995.746052n 0 996.672380n 0 997.672380n 1.8 998.624389n 1.8
+ 999.624389n 0 1000.576397n 0 1001.576397n 1.8 1002.518115n 1.8
+ 1003.518115n 0 1004.459833n 0 1005.459833n 1.8 1006.478882n 1.8
+ 1007.478882n 0 1008.497932n 0 1009.497932n 1.8 1010.509989n 1.8
+ 1011.509989n 0 1012.522046n 0 1013.522046n 1.8 1014.529520n 1.8
+ 1015.529520n 0 1016.536994n 0 1017.536994n 1.8 1018.535043n 1.8
+ 1019.535043n 0 1020.533093n 0 1021.533093n 1.8 1022.514474n 1.8
+ 1023.514474n 0 1024.495856n 0 1025.495856n 1.8 1026.488392n 1.8
+ 1027.488392n 0 1028.480929n 0 1029.480929n 1.8 1030.372946n 1.8
+ 1031.372946n 0 1032.264963n 0 1033.264963n 1.8 1034.292186n 1.8
+ 1035.292186n 0 1036.319409n 0 1037.319409n 1.8 1038.255363n 1.8
+ 1039.255363n 0 1040.191317n 0 1041.191317n 1.8 1042.183636n 1.8
+ 1043.183636n 0 1044.175956n 0 1045.175956n 1.8 1046.148343n 1.8
+ 1047.148343n 0 1048.120731n 0 1049.120731n 1.8 1050.077418n 1.8
+ 1051.077418n 0 1052.034106n 0 1053.034106n 1.8 1054.067254n 1.8
+ 1055.067254n 0 1056.100402n 0 1057.100402n 1.8 1058.167532n 1.8
+ 1059.167532n 0 1060.234663n 0 1061.234663n 1.8 1062.233112n 1.8
+ 1063.233112n 0 1064.231561n 0 1065.231561n 1.8 1066.222277n 1.8
+ 1067.222277n 0 1068.212994n 0 1069.212994n 1.8 1070.124441n 1.8
+ 1071.124441n 0 1072.035888n 0 1073.035888n 1.8 1074.065757n 1.8
+ 1075.065757n 0 1076.095626n 0 1077.095626n 1.8 1078.033356n 1.8
+ 1079.033356n 0 1079.971087n 0 1080.971087n 1.8 1081.989947n 1.8
+ 1082.989947n 0 1084.008807n 0 1085.008807n 1.8 1086.079814n 1.8
+ 1087.079814n 0 1088.150822n 0 1089.150822n 1.8 1090.195628n 1.8
+ 1091.195628n 0 1092.240433n 0 1093.240433n 1.8 1094.283716n 1.8
+ 1095.283716n 0 1096.326998n 0 1097.326998n 1.8 1098.253443n 1.8
+ 1099.253443n 0 1100.179887n 0 1101.179887n 1.8 1102.214594n 1.8
+ 1103.214594n 0 1104.249301n 0 1105.249301n 1.8 1106.256767n 1.8
+ 1107.256767n 0 1108.264232n 0 1109.264232n 1.8 1110.230751n 1.8
+ 1111.230751n 0 1112.197270n 0 1113.197270n 1.8 1114.208087n 1.8
+ 1115.208087n 0 1116.218904n 0 1117.218904n 1.8 1118.203938n 1.8
+ 1119.203938n 0 1120.188972n 0 1121.188972n 1.8 1122.198051n 1.8
+ 1123.198051n 0 1124.207131n 0 1125.207131n 1.8 1126.166359n 1.8
+ 1127.166359n 0 1128.125587n 0 1129.125587n 1.8 1130.123156n 1.8
+ 1131.123156n 0 1132.120725n 0 1133.120725n 1.8 1134.138023n 1.8
+ 1135.138023n 0 1136.155321n 0 1137.155321n 1.8 1138.201305n 1.8
+ 1139.201305n 0 1140.247288n 0 1141.247288n 1.8 1142.251723n 1.8
+ 1143.251723n 0 1144.256158n 0 1145.256158n 1.8 1146.237316n 1.8
+ 1147.237316n 0 1148.218473n 0 1149.218473n 1.8 1150.255704n 1.8
+ 1151.255704n 0 1152.292934n 0 1153.292934n 1.8 1154.252950n 1.8
+ 1155.252950n 0 1156.212966n 0 1157.212966n 1.8 1158.232313n 1.8
+ 1159.232313n 0 1160.251661n 0 1161.251661n 1.8 1162.208312n 1.8
+ 1163.208312n 0 1164.164962n 0 1165.164962n 1.8 1166.167510n 1.8
+ 1167.167510n 0 1168.170057n 0 1169.170057n 1.8 1170.185928n 1.8
+ 1171.185928n 0 1172.201799n 0 1173.201799n 1.8 1174.182856n 1.8
+ 1175.182856n 0 1176.163913n 0 1177.163913n 1.8 1178.173592n 1.8
+ 1179.173592n 0 1180.183271n 0 1181.183271n 1.8 1182.168008n 1.8
+ 1183.168008n 0 1184.152746n 0 1185.152746n 1.8 1186.144563n 1.8
+ 1187.144563n 0 1188.136379n 0 1189.136379n 1.8 1190.127935n 1.8
+ 1191.127935n 0 1192.119490n 0 1193.119490n 1.8 1194.122730n 1.8
+ 1195.122730n 0 1196.125970n 0 1197.125970n 1.8 1198.092985n 1.8
+ 1199.092985n 0 1200.060000n 0 1201.060000n 1.8 1202.057600n 1.8
+ 1203.057600n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.end
